US04824958
Methyl 3-methoxy-4,5-dimethyl-2-thiophenecarboxylate.
Methyl 3-hydroxy-4,5-dimethoxy-2-thiophenecarboxylate (5.0 g, 27 mmoles) is dissolved in acetone (50 mL) under nitrogen. Potassium carbonate (4.5 g, 32 mmoles) is added followed by dimethyl sulfate (4.2 g, 32 mmoles) and the mixture is stirred and heated under reflux. After 18 hours the mixture is stripped of solvent under reduced pressure, and the residue is partitioned between water (100 mL) and dichloromethane (100 mL). After separation the aqueous layer is extracted with dichloromethane (75 mL). The combined organic extracts are washed twice with brine, dried over MgSO4, and stripped of solvent under reduced pressure. Recrystallization of the residue from pentane gave the product (3.4 g); mp 37°-39° C.

reactant | Methyl 3-hydroxy-4,5-dimethoxy-2-thiophenecarboxylate | 27 mmoles, 5.0 g | OC1=C(SC(=C1OC)OC)C(=O)OC | C8H10O5S
reactant | Potassium carbonate | 32 mmoles, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 32 mmoles, 4.2 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | acetone | 50 mL | CC(=O)C | C3H6O
product | Methyl 3-methoxy-4,5-dimethyl-2-thiophenecarboxylate | 3.4 g | COC1=C(SC(=C1C)C)C(=O)OC | C9H12O3S
